US06548522B1
2,2-Diphenyl-N-propyl-propionamide
The title compound, white solid, m.p. 62° C. and MS: m/e=267 (M+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl chloride and propylamine.

reactant | 2,2-diphenylpropionyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C)C1=CC=CC=C1 | C15H13ClO
reactant | propylamine | C(CC)N | C3H9N
product | 2,2-Diphenyl-N-propyl-propionamide | C1(=CC=CC=C1)C(C(=O)NCCC)(C)C1=CC=CC=C1 | C18H21NO
